US09108957B2
6-(4-[1,2,4]Oxadiazol-5-yl-phenyl)-[1,4]oxazepane hydrochloride was prepared by the same procedure as that of 7-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-[1,4]oxazepane hydrochloride except for utilizing 4-benzyl-6-(4-[1,2,4]oxadiazol-5-yl-phenyl)-[1,4]oxazepane instead of 7-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-4-(1-phenyl-ethyl)-[1,4]oxazepane 6-(4-[1,2,4]Oxadiazol-5-yl-phenyl)-[1,4]oxazepane hydrochloride was obtained as white solid (0.03 g, 0.09 mmol, 90%).

reactant | 7-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-[1,4]oxazepane hydrochloride | Cl.CC1=NC(=NO1)C1=CC=C(C=C1)C1CCNCCO1
reactant | 4-benzyl-6-(4-[1,2,4]oxadiazol-5-yl-phenyl)-[1,4]oxazepane | C(C1=CC=CC=C1)N1CCOCC(C1)C1=CC=C(C=C1)C1=NC=NO1 | C20H21N3O2
product | 6-(4-[1,2,4]Oxadiazol-5-yl-phenyl)-[1,4]oxazepane hydrochloride | Cl.O1N=CN=C1C1=CC=C(C=C1)C1CNCCOC1 | InChI=1S/C13H15N3O2.ClH/c1-3-11(13-15-9-16-18-13)4-2-10(1)12-7-14-5-6-17-8-12;/h1-4,9,12,14H,5-8H2;1H
